US05006522
5,10-Dihydro-5-[6-(hexahydro-1H-1-azepinyl)hexyl]-11H-dibenzo[b,e][1,4]diazepin-11-one hydrochloride
Prepared analogously to Example 6 from 5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one, n-butyl-lithium and 1-bromo-6-(hexahydro-1H-1-azepinyl)hexane in a yield of 15% of theory. The monohydrochloride, which is sparingly soluble in water, melted at 103°-105° C. (from acetonitrile using activated charcoal).

reactant | 5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one | C1=CC=CC=2NC3=C(NC(C21)=O)C=CC=C3 | C13H10N2O
reactant | n-butyl-lithium | C(CCC)[Li]
reactant | 1-bromo-6-(hexahydro-1H-1-azepinyl)hexane | BrCCCCCCN1CCCCCC1 | C12H24BrN
reactant | monohydrochloride | Cl | ClH
solvent | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 5,10-Dihydro-5-[6-(hexahydro-1H-1-azepinyl)hexyl]-11H-dibenzo[b,e][1,4]diazepin-11-one hydrochloride | yield of 15% | Cl.N1(CCCCCC1)CCCCCCN1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | InChI=1S/C25H33N3O.ClH/c29-25-21-13-5-7-15-23(21)28(24-16-8-6-14-22(24)26-25)20-12-4-3-11-19-27-17-9-1-2-10-18-27;/h5-8,13-16H,1-4,9-12,17-20H2,(H,26,29);1H
